US06403610B1
1.75 g of potassium carbonate and then 1.15 cm3 of 1-bromophenylpropane were added with stirring, at a temperature in the region of 25° C., to a solution of 0.91 g of (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylic acid hydrochloride in 20 cm3 of anhydrous dimethylformamide. The suspension was brought to a temperature in the region of 60° C. for 17 hours. After cooling, the mixture was poured onto 200 cm3 of water and extracted with 3 times 30 cm3 of ether. The combined ethereal extracts were washed with 2 times 20 cm3 of water. The ethereal solution was extracted with 20 cm3 of normal aqueous hydrochloric acid and twice with 20 cm3 of water. The combined aqueous extracts were rendered alkaline by addition of solid sodium hydrogencarbonate. After extracting with 3 times 20 cm3 of ether and washing the ethereal extracts with 3 times 20 cm3 of water, drying was carried out over magnesium sulfate in the presence of 0.1 g of animal charcoal. After filtering through paper and then concentrating under reduced pressure (5 kPa) at a temperature in the region of 30° C, 0.84 g of 3-phenylpropyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(3-phenylpropyl)piperidine-3-carboxylate was obtained in the form of an oil with a light brown color.

reactant | potassium carbonate | 1.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromophenylpropane | 1.15 cm3 | BrC1(CC=CC=C1)CCC | C9H13Br
reactant | (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylic acid hydrochloride | 0.91 g | Cl.COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CNCC1)C(=O)O
reactant | water | 200 cm3 | O | H2O
solvent | dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
product | 3-phenylpropyl (3R,4R)-4-[3-(6-methoxyquinolin-4-yl)propyl]-1-(3-phenylpropyl)piperidine-3-carboxylate | 0.84 g | COC=1C=C2C(=CC=NC2=CC1)CCC[C@H]1[C@H](CN(CC1)CCCC1=CC=CC=C1)C(=O)OCCCC1=CC=CC=C1 | C37H44N2O3
